US06096753
Step B: Methyl (2S,3R)-3-amino-2-methyl-3-phenylpropionate:
A mixture of methyl (2S,3R,αS)-3-(N-benzyl-N-a-methylbenzylamino)-2-methyl-3-phenylpropionate (13.0 g, 33.55 mmol) and 10% palladium-on-carbon (13.0 g) in glacial acetic acid (260 ml) was hydrogenated under a balloon of hydrogen for 24 h. The catalyst was removed by filtration followed by evaporation and co-distillation with toluene to provide the title compound as a white solid. MS (m/z): 194.2 (M+H)+ ; C11H15NO2 requir. 193.3.

reactant | methyl (2S,3R,αS)-3-(N-benzyl-N-a-methylbenzylamino)-2-methyl-3-phenylpropionate | 33.55 mmol, 13.0 g | C(C1=CC=CC=C1)N([C@H](C1=CC=CC=C1)C)[C@H]([C@@H](C(=O)OC)C)C1=CC=CC=C1 | C26H29NO2
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 260 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-on-carbon | 13.0 g | [Pd] | Pd
product | Methyl (2S,3R)-3-amino-2-methyl-3-phenylpropionate | N[C@H]([C@@H](C(=O)OC)C)C1=CC=CC=C1 | C11H15NO2
